US05190909
1-(4-methoxyphenyl)-3-(4-phenylmethylaminophenyl)-1-oxoprop-2-ene (13.7 g, 0.04 mol) was dispersed in methanol (100 ml). Sodium borohydride (4.1 g, 0.11 mol) was added slowly at ambient temperature under vigorous stirring. After completion of the addition of sodium borohydride, the reaction mixture was kept stirred at ambient temperature for 20 hours. When the reaction was complete, the reaction mixture was poured into water (500 ml), and extracted with toluene. The toluene was removed using a rotary evaporator leaving an oily residue. The crude product was purified from petroleum ether : toluene (9:1 v/v) to give 1-(4-methoxyphenyl)-3-(4-phenylmethylaminophenyl)prop-2-en-1-ol as an amorphous solid in a yield of 12.3 g (89.1% of theory).

reactant | 1-(4-methoxyphenyl)-3-(4-phenylmethylaminophenyl)-1-oxoprop-2-ene | 0.04 mol, 13.7 g | COC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)NCC1=CC=CC=C1)=O | C23H21NO2
reactant | Sodium borohydride | 0.11 mol, 4.1 g | [BH4-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 1-(4-methoxyphenyl)-3-(4-phenylmethylaminophenyl)prop-2-en-1-ol | COC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)NCC1=CC=CC=C1)O | C23H23NO2
